US06664260B2
A 200 mL round bottom flask was charged with 60% sodium hydride (2.5 g, 0.06 mol, 1.7 equivalents) and washed with hexane (50 mL). A solution of phenol (5.7 g, 0.06 mol, 1.6 equivalents) in diglyme (25 mL) was then slowly added to the sodium hydride. The reaction was maintained with stirring at room temperature for 1.5 hours. To the phenol anion solution was slowly added a solution of 2-chloro-3-nitro-N-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinolin-4-amine (14.8 g, 0.04 mol) in diglyme (25 mL). The stirred reaction mixture was heated to 60° C. and maintained overnight. The reaction was quenched by pouring onto ice (1000 mL). The product oiled out of solution. The mixture was extracted with dichloromethane (4×100 mL). The combined extracts were concentrated to dryness. The residue was taken up in 1:1 hexane/ethyl acetate (250 mL) and washed with water (2×50 mL). The organic layer was concentrated to dryness. The residue was found to contain excess phenol. The phenol was removed by taking the residue up in diethyl ether (500 mL) and stirring over 10% sodium hydroxide (250 mL) overnight. The layers were separated. The ether layer was concentrated to provide 3-nitro-2-phenoxy-N-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinolin-4-amine as a pale orange syrup (12.0 g, 71%). TLC=(10% MeOH/CH2Cl2, Rf=0.58).

reactant | sodium hydride | 0.06 mol, 2.5 g, 1.7 equivalents | [H-].[Na+]
reactant | phenol | 0.06 mol, 5.7 g, 1.6 equivalents | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloro-3-nitro-N-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinolin-4-amine | 0.04 mol, 14.8 g | ClC1=NC=2CCCCC2C(=C1[N+](=O)[O-])NCCOCCCC=1C=NC=CC1 | C19H23ClN4O3
solvent | diglyme | 25 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 25 mL | COCCOCCOC | C6H14O3
product | 3-nitro-2-phenoxy-N-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinolin-4-amine | 12.0 g, 71% | [N+](=O)([O-])C=1C(=NC=2CCCCC2C1NCCOCCCC=1C=NC=CC1)OC1=CC=CC=C1 | C25H28N4O4
